US04521242
The sodium salt of 4-chloro-3-propargyloxyphenol as prepared from 14 g of 4-chloro-3-propargyloxyphenol and 28% methanol solution of sodium methylate was dissolved in 300 ml of distilled water and the solution was added dropwise to a solution of 5 ml of trichloromethyl chloroformate in 100 ml of chloroform at a temperature of 10° C. or below. The resulting reaction mixture was allowed to stand for phase separation. The chloroform layer was separated and dried over anhydrous magnesium sulfate, and the solvent was then distilled off. There was obtained 15.5 g of 4-chloro-3-propargyloxyphenyl chloroformate.

reactant | sodium | [Na] | Na
reactant | 4-chloro-3-propargyloxyphenol | ClC1=C(C=C(C=C1)O)OCC#C | C9H7ClO2
reactant | 4-chloro-3-propargyloxyphenol | 14 g | ClC1=C(C=C(C=C1)O)OCC#C | C9H7ClO2
reactant | sodium methylate | C[O-].[Na+]
reactant | trichloromethyl chloroformate | 5 ml | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
solvent | water | 300 ml | O | H2O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | CO | CH4O
product | 4-chloro-3-propargyloxyphenyl chloroformate | 15.5 g | ClC(=O)OC1=CC(=C(C=C1)Cl)OCC#C | C10H6Cl2O3
